US04001406
A. m-Nitro-pentafluoroethylbenzene
74 G. (0.4 moles) of pentafluoroethylbenzene is cooled to 5° C. and treated dropwise with a mixture of 22 g. (0.33 moles) of concentrated nitric acid and 33 g. (0.32 moles) of concentrated sulfuric acid. The temperature is maintained at 5°-15° C. during the 1 hour addition period and then raised to 45° C. for 1 hour. The reaction mixture is cooled and poured onto ice. The aqueous mixture is extracted with ether, the ether extracts washed with water, dried over sodium sulfate, and the residue is distilled at 0.35 mm. of Hg at 74°-75° C. The yield is 84 g. (87%) of m-nitro-pentafluoroethylbenzene.

reactant | pentafluoroethylbenzene | 0.4 moles | FC(C(F)(F)F)(F)C1=CC=CC=C1 | C8H5F5
reactant | nitric acid | 0.33 moles | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 0.32 moles | S(O)(O)(=O)=O | H2O4S
product | m-Nitro-pentafluoroethylbenzene | [N+](=O)([O-])C=1C=C(C=CC1)C(C(F)(F)F)(F)F | C8H4F5NO2
